US05332753
3-Bromopropionitrile (4.06 g, 0.03 mole), cis/trans-2,6-dimethylmorpholine (4.0 g, 0.034 mole), triethylamine (5.0 ml ) and ethanol (50 ml ) were refluxed (78° C.) for 3 hours and left stirring at 20° C. for 17 hours. The solvent was evaporated and the residue purified by chromatography using silica gel/chloroform: 5% methanol to give els/trans N-(2-cyanoethyl)-2,6-dimethylmorpholine (4.0 g, 79%) as a colourless oil.

reactant | 3-Bromopropionitrile | 0.03 mole, 4.06 g | BrCCC#N | C3H4BrN
reactant | trans-2,6-dimethylmorpholine | 0.034 mole, 4.0 g | C[C@@H]1CNC[C@H](O1)C | C6H13NO
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | trans N-(2-cyanoethyl)-2,6-dimethylmorpholine | 4.0 g, 79% | C(#N)CCN1C[C@H](O[C@@H](C1)C)C | C9H16N2O
